US07291635B2
A solution of 3-[3-benzyloxy-4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-benzyl]-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione (452 mg, 0.89 mmol) in ethanol-acetic acid (2:1, 12 mL) is hydrogenated over 10% palladium on charcoal catalyst (106 mg) at 50 psi for 24 h. The catalyst is filtered and the filtrate is evaporated to dryness. The residue is purified by LC-MS, on a Gilson-Micromass instrument using a Phenominex Luna, 5μ, 60×21.2 mm, C-8 column, a gradient of 5% to 100% over 8 min with solvent A (water, 0.1% trifluoroacetic acid) and B (MeCN, 0.1% trifluoroacetic acid) with flow rate 20 mL/min, UV detector at 215 nm and cone voltage setting at 30 V. The purification is conducted with several runs with 50 mg of crude material being used in each run (approximately 16 runs). Pure fractions are pooled and evaporated to dryness, the residue is dissolved in water-MeCN and the solution is filtered and the filtrate is concentrated to give 3-[3-hydroxy-4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-benzyl]-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione as an amorphous solid: mp=180° C.; [M+1]+=417.

reactant | 3-[3-benzyloxy-4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-benzyl]-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione | 0.89 mmol, 452 mg | C(C1=CC=CC=C1)OC=1C=C(CC2C(NC3=C(C(N2)=O)C=CC=C3)=O)C=CC1N1S(NC(C1)=O)(=O)=O | C25H22N4O6S
solvent | ethanol acetic acid | 12 mL | C(C)O.C(C)(=O)O
catalyst | palladium on charcoal | 106 mg | [Pd] | Pd
product | 3-[3-hydroxy-4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-benzyl]-3,4-dihydro-1H-benzo[1,4]diazepine-2,5-dione | OC=1C=C(CC2C(NC3=C(C(N2)=O)C=CC=C3)=O)C=CC1N1S(NC(C1)=O)(=O)=O | C18H16N4O6S
